US06949542B2
(4-Chloro-2-nitro-5-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester
Reaction of N-(4-chloro-2-nitro-5-trifluoromethyl-phenyl)-acetamide [CAS 157554-77-3] (4.02 g, 14.2 mmol) with Boc-anhydride (3.26 g, 14.9 mmol) according to the general procedure A (method c) and subsequent reaction with ammonium hydroxide (25%; 4.38 ml, 28.4 mmol) gave after aqueous work up and purification by column chromatography on silica gel (hexane/ethyl acetate 4:1) (4-chloro-2-nitro-5-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester (3.39 g, 70%) as an orange oil.

reactant | N-(4-chloro-2-nitro-5-trifluoromethyl-phenyl)-acetamide | 14.2 mmol, 4.02 g | ClC1=CC(=C(C=C1C(F)(F)F)NC(C)=O)[N+](=O)[O-] | C9H6ClF3N2O3
reactant | ammonium hydroxide | 28.4 mmol, 4.38 ml | [OH-].[NH4+]
product | (4-Chloro-2-nitro-5-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)C(F)(F)F)Cl)[N+](=O)[O-])=O | C12H12ClF3N2O4
